US07524841B2
An aqueous solution (80 ml) containing 4,5-dimethyl-1H-indole-2,3-dione (9.8 g, 0.056 mmol) and sodium hydroxide (8.1 g, 0.2 mol) was heated to 85° C., and then 10% aqueous hydrogen peroxide (43 ml) was slowly added. The obtained solution was stirred at 85° C. for 2 hours, cooled to room temperature, and filtered. The filtrate was adjusted to pH 1 using sulfuric acid, to obtain 6-amino-2,3-dimethylbenzoic acid as crystals.

reactant | 4,5-dimethyl-1H-indole-2,3-dione | 0.056 mmol, 9.8 g | CC1=C2C(C(NC2=CC=C1C)=O)=O | C10H9NO2
reactant | sodium hydroxide | 0.2 mol, 8.1 g | [OH-].[Na+]
reactant | hydrogen peroxide | 43 ml | OO | H2O2
product | 6-amino-2,3-dimethylbenzoic acid | NC1=CC=C(C(=C1C(=O)O)C)C | C9H11NO2
